US07750021B2
To a solution of 2-(4-chloro-3-trifluoromethylphenyl)-5-methylbenzo[b]-thiophene (0.746 g, 2.28 mmol) in carbon tetrachloride (23 mL) is added N-bromosuccinimide (0.447 g, 2.51 mmol) and 2,2′-azobisisobuyronitrile (AIBN, 0.075 g, 0.46 mmol). The mixture is stirred at 90° C. overnight, and then concentrated. The residue is passed through a pad of silica gel, which is further rinsed with hexanes. The combined organic solution is concentrated in vacuo. The resulting crude product, 5-bromomethyl-2-(4-chloro-3-trifluoromethylphenyl)benzo[b]thiophene, is dissolved in DMF (2 mL) and added to a pre-stirred suspension of β-alanine t-butyl ester hydrochloride (0.828 g, 4.56 mmol) and sodium hydride (0.365 g, 60% dispersion in mineral oil, 9.12 mmol) in DMF (4 mL). The mixture is stirred at room temperature for 4 hours, quenched with water (1 mL) and concentrated in vacuo. The resulting residue is purified by column chromatography (50% to 70% EtOAc/hexanes) to afford 0.79 g (73%) of 3-{[2-(4-chloro-3-trifluoromethylphenyl)benzo[b]thiophene-5-ylmethyl]amino}propionic acid t-butyl ester as a yellow solid.

reactant | 2-(4-chloro-3-trifluoromethylphenyl)-5-methylbenzo[b]-thiophene | 2.28 mmol, 0.746 g | ClC1=C(C=C(C=C1)C1=CC2=C(S1)C=CC(=C2)C)C(F)(F)F | C16H10ClF3S
reactant | N-bromosuccinimide | 2.51 mmol, 0.447 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | β-alanine t-butyl ester hydrochloride | 4.56 mmol, 0.828 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | sodium hydride | 9.12 mmol, 0.365 g | [H-].[Na+]
solvent | carbon tetrachloride | 23 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-{[2-(4-chloro-3-trifluoromethylphenyl)benzo[b]thiophene-5-ylmethyl]amino}propionic acid t-butyl ester | 0.79 g, 73% | C(C)(C)(C)OC(CCNCC1=CC2=C(SC(=C2)C2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1)=O | C23H23ClF3NO2S
